US06875884B1
Phenyl isocyanate (1.4 ml, 13 mmol) was added to a solution of 3-bromopropylamine hydrobromide (2.5 g, 11 mmol) and triethylamine (1.7 ml, 12 mmol) in DMF (50 ml) at 0° C., and the mixture was stirred at 0° C. for 1.5 h. After adding water, the mixture was extracted with ethyl acetate, washed with water and brine, dried over sodium sulfate, and filtered. The filtrate was concentrated under vacuum to dryness, and the residue was chromatographed on silica gel (eluting with 2.5% ethyl acetate/hexane to 50% ethyl acetate/hexane) to afford N-phenylcarbamoyl-3-bromopropylamine (2.7 g, 96%); MS(FD) m/e 256 M+; 1H NMR (400 MHz, CDCl3) δ 7.35-7.26 (m, 4H), 7.11 (m, 1H), 6.45 (br, 2H), 3.46 (t, J=6.3 Hz, 2H), 3.41 (t, J=6.6 Hz, 2H), 2.10 (m, 2H).

reactant | Phenyl isocyanate | 13 mmol, 1.4 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3-bromopropylamine hydrobromide | 11 mmol, 2.5 g | Br.BrCCCN
reactant | triethylamine | 12 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-phenylcarbamoyl-3-bromopropylamine | 2.7 g, 96% | C1(=CC=CC=C1)NC(=O)NCCCBr | C10H13BrN2O
